US08809342B2
A mixture of 4-bromo-3-methylbenzonitrile (1.00 g, 5.10 mmol), 4-(trifluoromethyl)phenylboronic acid (0.969 g, 5.10 mmol), potassium carbonate (1.76 g, 12.8 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.295 g, 0.255 mmol) in 1:1 dioxane:water (20 mL) was stirred at 80° C. overnight. The mixture was filtered through Celite. The filtrate was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 2-methyl-4′-(trifluoromethyl)biphenyl-4-carbonitrile (1.26 g, 95%). 1H NMR (400 MHz, CDCl3, δ): 7.72 (d, 2H), 7.59 (s, 1H), 7.56 (d, 1H), 7.42 (d, 2H), 7.31 (d, 1H), 2.29 (s, 3H).

reactant | 4-bromo-3-methylbenzonitrile | 5.10 mmol, 1.00 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | 4-(trifluoromethyl)phenylboronic acid | 5.10 mmol, 0.969 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 12.8 mmol, 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.255 mmol, 0.295 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 2-methyl-4′-(trifluoromethyl)biphenyl-4-carbonitrile | 1.26 g, 95% | CC1=C(C=CC(=C1)C#N)C1=CC=C(C=C1)C(F)(F)F | C15H10F3N
